US07846960B2
4-[2-(2,6-Dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-ylmethoxy]-2-methyl-phenylamine
To a 0° C. solution of [2-(2,6-dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-yl]-methanol (3.0 g, 10.6 mmol), 4-amino-3-methyl-phenol (2.0 g, 15.8 mmol), and tri-n-butylphosphine (3.2 g, 15.8 mmol) in toluene (30 mL) is added a solution of 1,1′-(Azodicarbonyl)-dipiperidine (4.0 g, 15.8 mmol) in toluene (40 mL). The reaction mixture is allowed to warm to room temperature and is stirred for 3.0 h. The reaction mixture is partitioned between EtOAc (50 mL) and water (60 mL). The organic layer is washed with brine (60 mL), dried (Na2SO4), filtered, and concentrated under reduced pressure to a residue. The residue is purified by flash chromatography (EtOAc/Hexane) to afford the title compound as a solid (2.3 g, 56%). LC-ES/MS m/e 390.0 (M+1).

reactant | [2-(2,6-dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-yl]-methanol | 10.6 mmol, 3.0 g | ClC1=C(C(=CC=C1)Cl)N1N=CC(=C1CO)C(C)C | C13H14Cl2N2O
reactant | 4-amino-3-methyl-phenol | 15.8 mmol, 2.0 g | NC1=C(C=C(C=C1)O)C | C7H9NO
reactant | tri-n-butylphosphine | 15.8 mmol, 3.2 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(Azodicarbonyl)-dipiperidine | 15.8 mmol, 4.0 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[2-(2,6-Dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-ylmethoxy]-2-methyl-phenylamine | 2.3 g, 56% | ClC1=C(C(=CC=C1)Cl)N1N=CC(=C1COC1=CC(=C(C=C1)N)C)C(C)C | C20H21Cl2N3O
